US07906548B2
2,6-Dimethoxybenzenesulfonyl chloride was prepared from 2-bromo-1,3-dimethoxybenzene according to the procedure in Example 1, Step 1. The reaction gave a mixture of sulfonyl chloride and another product as a white solid.

reactant | 2-bromo-1,3-dimethoxybenzene | BrC1=C(C=CC=C1OC)OC | C8H9BrO2
reactant | sulfonyl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
product | 2,6-Dimethoxybenzenesulfonyl chloride | COC1=C(C(=CC=C1)OC)S(=O)(=O)Cl | C8H9ClO4S
